US04443462
When in the procedure of Example 13, 4-(5-methoxy-1-naphthalenyloxy)piperidine hydrochloride is substituted for 4-(2-naphthalenyloxy)piperidine hydrochloride and 3-chloro-1-(4-chlorophenyl)-1-propanone substituted for 4-chloro-1-phenyl-1-butanone, 3-[4-(5-methoxy-1-naphthalenyloxy)-1-piperidyl]-1-(4-chlorophenyl)-1-propanone hydrochloride is produced.

reactant | 4-(5-methoxy-1-naphthalenyloxy)piperidine hydrochloride | Cl.COC1=C2C=CC=C(C2=CC=C1)OC1CCNCC1
reactant | 4-(2-naphthalenyloxy)piperidine hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)OC1CCNCC1
reactant | 3-chloro-1-(4-chlorophenyl)-1-propanone | ClCCC(=O)C1=CC=C(C=C1)Cl | C9H8Cl2O
reactant | 4-chloro-1-phenyl-1-butanone | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
product | 3-[4-(5-methoxy-1-naphthalenyloxy)-1-piperidyl]-1-(4-chlorophenyl)-1-propanone hydrochloride | Cl.COC1=C2C=CC=C(C2=CC=C1)OC1CCN(CC1)CCC(=O)C1=CC=C(C=C1)Cl | InChI=1S/C25H26ClNO3.ClH/c1-29-24-6-2-5-22-21(24)4-3-7-25(22)30-20-12-15-27(16-13-20)17-14-23(28)18-8-10-19(26)11-9-18;/h2-11,20H,12-17H2,1H3;1H
